US07071220B2
Synthesis of Methyl 4-(5-chloro-3-methylbenzo[b]thiophene-2-sulfonylamino)-3-methanesulfonylbenzoate (Compound 1)
Into a mixed solvent of 20 mL of THF and 3 mL of DMF was dissolved 985 mg of methyl 4-amino-3-methanesulfonylbenzoate, followed by addition of 170 mg of sodium hydride (oily, 60%) at 0° C. After 20 minutes of stirring at the same temperature, 1.28 g of 5-chloro-2-chlorosulfonyl-3-methylbenzo[b]thiophene was added at 0° C., followed by 1 hour of stirring at room temperature. Further, 150 mg of sodium hydride (oily, 60%) was added at room temperature and the mixture was stirred for 2 hours at the same temperature. After confirmation of disappearance of the starting material, the reaction was terminated by adding saturated aqueous ammonium chloride solution at 0° C., followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and then dried over anhydrous sodium sulfate. The solvent was removed by evaporation and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=3/1) to obtain 911 mg of the title compound as colorless powder.

reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | methyl 4-amino-3-methanesulfonylbenzoate | 985 mg | NC1=C(C=C(C(=O)OC)C=C1)S(=O)(=O)C | C9H11NO4S
reactant | sodium hydride | 170 mg | [H-].[Na+]
reactant | 5-chloro-2-chlorosulfonyl-3-methylbenzo[b]thiophene | 1.28 g | ClC1=CC2=C(SC(=C2C)S(=O)(=O)Cl)C=C1 | C9H6Cl2O2S2
reactant | sodium hydride | 150 mg | [H-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | Methyl 4-(5-chloro-3-methylbenzo[b]thiophene-2-sulfonylamino)-3-methanesulfonylbenzoate | 911 mg | ClC1=CC2=C(SC(=C2C)S(=O)(=O)NC2=C(C=C(C(=O)OC)C=C2)S(=O)(=O)C)C=C1 | C18H16ClNO6S3
